US07960369B2
4-(4-phenoxyphenoxy)benzaldehyde
To a solution of 4-phenoxyphenol (1.0 g, 5.4 mmol) in N,N-dimethylformamide (20 mL) were added 4-fluorobenzaldehyde (0.67 g, 5.4 mmol) and potassium carbonate (0.75 g, 5.4 mmol), and the mixture was stirred at 100° C. for 15 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9:1) to give the title compound (1.4 μg, yield 89%).

reactant | 4-phenoxyphenol | 5.4 mmol, 1.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | 4-fluorobenzaldehyde | 5.4 mmol, 0.67 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 5.4 mmol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(4-phenoxyphenoxy)benzaldehyde | 1.4 μg, yield 89% | O(C1=CC=CC=C1)C1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C19H14O3
